US07449466B2
Production Example 30 was repeated except that 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine was replaced with 1-(4-benzyloxy-3-fluorophenyl)piperazine (300 mg), to provide 2-fluoro-4-(piperazin-1-yl)phenol hydrochloride (267 mg).

reactant | 1-(4-benzyloxy-3-chlorophenyl)-4-(3-cyclohexylpropyl)piperazine | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCN(CC1)CCCC1CCCCC1)Cl | C26H35ClN2O
reactant | 1-(4-benzyloxy-3-fluorophenyl)piperazine | 300 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)N1CCNCC1)F | C17H19FN2O
product | 2-fluoro-4-(piperazin-1-yl)phenol hydrochloride | 267 mg | Cl.FC1=C(C=CC(=C1)N1CCNCC1)O | InChI=1S/C10H13FN2O.ClH/c11-9-7-8(1-2-10(9)14)13-5-3-12-4-6-13;/h1-2,7,12,14H,3-6H2;1H
